US07314886B2
49.A. Synthesis of (9-Benzyl-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid
To a solution of (1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid (0.51 g, 1.8 mmol) in tetrahydrofuran at room temperature was added sodium hydride (60% dispersion in mineral oil, 0.4 g). After being heated at 50° C. for 2 hours, benzyl bromide (0.6 g, 3.5 mmol) was added and the solution was stirred for another 2 hours. It was quenched with ethyl acetate and washed with water. The ethyl acetate layer was dried over magnesium sulfate and evaporated to dryness. Flash chromatography on silica gel provided 0.486 g (73%) of the title compound as a solid. 1H NMR (500 MHz, CDCl3) δ 7.13 (m, 3H), 6.97 (d, 1H), 6.74 (d, 1H), 6.68 (t, 1H), 6.21 (d, 1H), 3.90 (s, 1H), 3.63 (m, 1H), 3.35 (td, 1H), 3.18 (d, 1H), 3.00 (d, 1H), 2.67 (q, 2H), 2.44 (q, 2H), 2.10 (m, 1H), 1.85 (d, 1H), 1.52 (m, 1H), 1.41 (m, 1H), 1.16 (t, 3H), 0.75 (t, 3H); ESI (+) MS m/e=278 (MH+).

reactant | (1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | 1.8 mmol, 0.51 g | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)CC)CC(=O)O | C17H21NO3
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | benzyl bromide | 3.5 mmol, 0.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (9-Benzyl-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | 0.486 g, 73% | C(C1=CC=CC=C1)N1C2=C(C3=CC=CC(=C13)CC)CCOC2(CC)CC(=O)O | C24H27NO3
